US04435405
3-(p-Fluorophenyl)quinolin-2-thione (5.05 g.) was added in portions to a stirred suspension of sodium hydride (1.0 g. of a 50% w/w dispersion in mineral oil) in dimethylformamide (30 ml.) at 0°-5°. When all the hydrogen had evolved, chloroacetone (1.83 g.) was added and the mixture was stirred at ambient temperature for 18 hr. The mixture was poured into ice-water (300 ml.) and extracted with ethyl acetate (3×100 ml.). The ethyl acetate extract was washed with brine (75 ml.) and then dried (MgSO4). The solvent was evaporated and the residue was chromatographed on basic alumina (200 g., Brockmann Grade III), eluted with increasing concentrations of ethyl acetate in petroleum ether. The eluate obtained with 10% v/v ethyl acetate in petroleum ether was evaporated to give 3-(p-fluorophenyl)-2-(2-oxopropylthio)quinoline, m.p. 95°-96°.

reactant | 3-(p-Fluorophenyl)quinolin-2-thione | 5.05 g | FC1=CC=C(C=C1)C=1C(NC2=CC=CC=C2C1)=S | C15H10FNS
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | chloroacetone | 1.83 g | ClCC(C)=O | C3H5ClO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-(p-fluorophenyl)-2-(2-oxopropylthio)quinoline | FC1=CC=C(C=C1)C=1C(=NC2=CC=CC=C2C1)SCC(C)=O | C18H14FNOS
